US04902804
Preparation of [(1,3,4-thiadiazol-2,5-diyl)dithio]-bis(2,2'-succinic acid):
About 68 g. of a solution of 39.6 g. (0.6 mole) of KOH (85%) in 200 ml. of abs. ethanol is added to a stirred slurry of 15.0 g. (0.1 mole) of 2,5-dimercapto-1,3,4-thiadiazole in 80 ml. of abs. ethanol, at 10°-15° C. The resultant mixture is stirred at 10°-15° C. for a half hour, and thereafter, a clear solution of 39.4 g. (0.2 mole) of bromosuccinic acid in 70 ml. of abs. ethanol is added dropwise over a period of 15 minutes at 10°-15° C. followed by the gradual addition of the remainder of the KOH solution at the same temperature range over a period of 15 minutes. After adding 100 ml. of abs. ethanol, the reaction mixture is stirred in the cooling bath for more than one hour, then overnight in water bath at ambient temperature.

reactant | KOH | 0.6 mole | [OH-].[K+]
reactant | ethanol | C(C)O | C2H6O
reactant | 2,5-dimercapto-1,3,4-thiadiazole | 0.1 mole | SC=1SC(=NN1)S | C2H2N2S3
reactant | bromosuccinic acid | 0.2 mole | BrC(C(=O)O)CC(=O)O | C4H5BrO4
solvent | water | O | H2O
product | [(1,3,4-thiadiazol-2,5-diyl)dithio]-bis(2,2'-succinic acid) | S1C(=NN=C1SC(C(=O)O)CC(=O)O)SC(C(=O)O)CC(=O)O | C10H10N2O8S3
